Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[c:4]([F:5])[cH:6][n:7][cH:8][c:9]1[CH:10]1[CH2:11][CH2:12][CH2:13]1.[NH:14]=[C:15]([NH2:16])[c:17]1[cH:18][cH:19][n:20][c:21]2[nH:22][c:23]3[n:24][cH:25][c:26]([F:27])[cH:28][c:29]3[c:30]12>>[C:1](=[O:2])([c:3]1[c:4]([F:5])[cH:6][n:7][cH:8][c:9]1[CH:10]1[CH2:11][CH2:12][CH2:13]1)[NH:16][C:15](=[NH:14])[c:17]1[cH:18][cH:19][n:20][c:21]2[nH:22][c:23]3[n:24][cH:25][c:26]([F:27])[cH:28][c:29]3[c:30]12,[NH:14]=[C:15]([NH2:16])[c:17]1[cH:18][cH:19][n:20][c:21]2[nH:22][c:23]3[n:24][cH:25][c:26]([F:27])[cH:28][c:29]3[c:30]12.[OH:101][C:1](=[O:2])[c:3]1[c:4]([F:5])[cH:6][n:7][cH:8][c:9]1[CH:10]1[CH2:11][CH2:12][CH2:13]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[c:4]([F:5])[cH:6][n:7][cH:8][c:9]1[CH:10]1[CH2:11][CH2:12][CH2:13]1)[NH:16][C:15](=[NH:14])[c:17]1[cH:18][cH:19][n:20][c:21]2[nH:22][c:23]3[n:24][cH:25][c:26]([F:27])[cH:28][c:29]3[c:30]12,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (16, 1), ([1, 2], 2), (303, 16.1), ([16.1, 16], 16), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH3:6].[OH:7][c:8]1[cH:9][cH:10][c:11](-[c:12]2[cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][s:20]3)[cH:21][n:22]2)[cH:23][cH:24]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH3:6])[O:7][c:8]1[cH:9][cH:10][c:11](-[c:12]2[cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][s:20]3)[cH:21][n:22]2)[cH:23][cH:24]1,[OH:7][c:8]1[cH:9][cH:10][c:11](-[c:12]2[cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][s:20]3)[cH:21][n:22]2)[cH:23][cH:24]1.[I:101][CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH3:6].[H-:301].[Na+]>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH3:6])[O:7][c:8]1[cH:9][cH:10][c:11](-[c:12]2[cH:13][cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][s:20]3)[cH:21][n:22]2)[cH:23][cH:24]1,SN2_alcohol(thiol),"[(301, 7.1), ([7.1, 7], 7), (7, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[n:2][c:3]([Cl:4])[cH:5][c:6]([CH3:7])[c:8]1[N+:9](=[O:10])[O-:11].[F:12][C@@H:13]1[CH2:14][CH2:15][NH:16][CH2:17]1>>[c:1]1([N:16]2[CH2:15][CH2:14][C@@H:13]([F:12])[CH2:17]2)[n:2][c:3]([Cl:4])[cH:5][c:6]([CH3:7])[c:8]1[N+:9](=[O:10])[O-:11],[Cl:101][c:1]1[n:2][c:3]([Cl:4])[cH:5][c:6]([CH3:7])[c:8]1[N+:9](=[O:10])[OH:11].[F:12][C@@H:13]1[CH2:14][CH2:15][NH:16][CH2:17]1>>[c:1]1([N:16]2[CH2:15][CH2:14][C@@H:13]([F:12])[CH2:17]2)[n:2][c:3]([Cl:4])[cH:5][c:6]([CH3:7])[c:8]1[N+:9](=[O:10])[OH:11],SNAr(ortho),"[(16, 1), ([1, 8], [8, 9]), ([9, 10], 10), (10, [10, 9]), ([9, 8], [8, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH2:2][CH2:3][c:4]1[n:5][n:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18]1.[CH3:19][c:20]1[cH:21][cH:22][cH:23][c:24]([N:25]2[CH2:26][CH2:27][NH:28][CH2:29][CH2:30]2)[c:31]1[CH3:32]>>[CH2:1]([CH2:2][CH2:3][c:4]1[n:5][n:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18]1)[N:28]1[CH2:27][CH2:26][N:25]([c:24]2[cH:23][cH:22][cH:21][c:20]([CH3:19])[c:31]2[CH3:32])[CH2:30][CH2:29]1,[O:101]=[CH:1][CH2:2][CH2:3][c:4]1[n:5][n:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18]1.[CH3:19][c:20]1[cH:21][cH:22][cH:23][c:24]([N:25]2[CH2:26][CH2:27][NH:28][CH2:29][CH2:30]2)[c:31]1[CH3:32].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][CH2:3][c:4]1[n:5][n:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[cH:18]1)[N:28]1[CH2:27][CH2:26][N:25]([c:24]2[cH:23][cH:22][cH:21][c:20]([CH3:19])[c:31]2[CH3:32])[CH2:30][CH2:29]1,reductive_amination,"[(28, 1), ([1, 101], 301), (101, 28.1), ([28.1, 28], 28), (28, [28, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 28], 28)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
